US05708008
5-(4-(methanesulfonyl)benzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 7.0 mg (0.03 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 18.0 mg (0.09 mMol) 4-(methanesulfonyl)benzoic acid, 7.2 mg of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.03 mMol, 7.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 4-(methanesulfonyl)benzoic acid | 0.09 mMol, 18.0 mg | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
product | 5-(4-(methanesulfonyl)benzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 7.2 mg | CS(=O)(=O)C1=CC=C(C(=O)NC=2C=C3C(=CNC3=CC2)C2CCN(CC2)C)C=C1 | C22H25N3O3S
